US06689733B1
N,N′-Bis[4-(N-isopropyl-N-methylamino)salicylidene]-1,2-ethylenediamine
Synthesis and working up are carried out as in Example 9, starting from 500 mg (2.59 mmol) of 4-(N-isopropyl-N-methylamino)salicylaldehyde and 90 mg (1.5 mmol) of ethylenediamine.

reactant | 4-(N-isopropyl-N-methylamino)salicylaldehyde | 2.59 mmol, 500 mg | C(C)(C)N(C)C=1C=C(C(C=O)=CC1)O | C11H15NO2
reactant | ethylenediamine | 1.5 mmol, 90 mg | C(CN)N | C2H8N2
product | N,N′-Bis[4-(N-isopropyl-N-methylamino)salicylidene]-1,2-ethylenediamine | C(C)(C)N(C)C=1C=C(C(C=NCCN=CC=2C(O)=CC(=CC2)N(C(C)C)C)=CC1)O | C24H34N4O2
